US08258131B2
(1) Preparation of 7-chloro-4-(4-fluorophenyl)-3-methyl-2H-chromen-2-one
A mixture of (4-chloro-2-hydroxyphenyl)(4-fluorophenyl)methanone (200 mg) and (carboethoxyethylidene)triphenylphosphorane (435 mg) was heated with stirring at 200° C. for 15 hours. After cooling, the reaction mixture was diluted with ethyl acetate and the solution was poured into an aqueous saturated ammonium chloride solution. The mixture was extracted with ethyl acetate, and the organic layer was washed with water and brine, and filtered through a column of porous diatomite (Chem Elut). The filtrate was concentrated and the resulted residue was purified by column chromatography on silica gel (Solvent: n-hexane/ethyl acetate=97/3 to 90/10) to give the titled compound (119 mg) as a yellow powder.

reactant | (4-chloro-2-hydroxyphenyl)(4-fluorophenyl)methanone | 200 mg | ClC1=CC(=C(C=C1)C(=O)C1=CC=C(C=C1)F)O | C13H8ClFO2
reactant | (carboethoxyethylidene)triphenylphosphorane | 435 mg | C(=O)(OCC)CC=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23O2P
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-chloro-4-(4-fluorophenyl)-3-methyl-2H-chromen-2-one | 119 mg | ClC1=CC=C2C(=C(C(OC2=C1)=O)C)C1=CC=C(C=C1)F | C16H10ClFO2
